US08404841B2
Preparation of 2-((4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide (Formula-16a)
Potassium carbonate (150 grams) added to a solution of 50 grams of ((4S,6R)-6-((diisopropylcarbamoyl)methyl)-2,2-dimethyl-1,3-dioxan-4-yl)methyl acetate in 250 ml methanol. Stirred the reaction mixture at 0-5° C. for 2 hours. Quenched the reaction mixture with chilled water. Stirred the reaction mixture for 20 minutes. Extracted the reaction mixture thrice with dichloromethane. Washed the organic layer with brine and water. Dried the organic layer over sodium sulfate and distilled the solvent completely under reduced pressure to get the title compound.

reactant | Potassium carbonate | 150 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ((4S,6R)-6-((diisopropylcarbamoyl)methyl)-2,2-dimethyl-1,3-dioxan-4-yl)methyl acetate | 50 grams | C(C)(=O)OC[C@H]1OC(O[C@H](C1)CC(N(C(C)C)C(C)C)=O)(C)C | C17H31NO5
solvent | methanol | 250 ml | CO | CH4O
product | 2-((4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C(C)C)C(C)C | C15H29NO4
